US08193199B2
A sealed flask was charged with (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)-methanamine, made in procedure E in A-1216 US PSP, tert-butyl 7-chloro-3H-imidazo[4,5-b]pyridine-3-carboxylate (109 mg, 429 μmol), diisopropylethylamine (0.075 mL, 429 μmol) and 1-butanol (2.0 mL, 21856 μmol). The mixture was subjected to microwave at 180° C. for 120 min. After cooled to room temperature, the mixture was concentrated, and the residue was diluted with MeOH. The solution was purified by HPLC, 25%-45% of B in 35 min. The collected fractions were dissolved in CH2Cl2 and neutralized by washing with aq. NaHCO3, the CH2Cl2 layer was dried, concentrated and gave N-((8-chloro-2-(2-chlorophenyl)-quinolin-3-yl)methyl)-3H-imidazo[4,5-b]pyridin-7-amine (20.2 mg, 15%), 1H NMR (DMSO-d6) δ ppm 12.72 (1H, s), 8.43 (1H, s), 8.15 (1H, s), 8.09 (1H, d, J=8.0 Hz), 8.05 (1H, d, J=8.0 Hz), 7.73-7.80 (2H, m), 7.63-7.70 (4H, m), 7.45 (1H, s), 6.13 (1H, d, J=8.0 Hz), 4.60 (2H, br). Mass Spectrum (ESI) m/e=420.0 (M+1).

reactant | (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)-methanamine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CN | C16H12Cl2N2
reactant | tert-butyl 7-chloro-3H-imidazo[4,5-b]pyridine-3-carboxylate | 429 μmol, 109 mg | ClC1=C2C(=NC=C1)N(C=N2)C(=O)OC(C)(C)C | C11H12ClN3O2
reactant | diisopropylethylamine | 429 μmol, 0.075 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-butanol | 21856 μmol, 2.0 mL | C(CCC)O | C4H10O
solvent | A-1216 | CC1=CC(=CC(=C1NC(=O)CN2CCOCC2)C)OCC3=CC=CC=C3 | C21H26N2O3
product | N-((8-chloro-2-(2-chlorophenyl)-quinolin-3-yl)methyl)-3H-imidazo[4,5-b]pyridin-7-amine | 20.2 mg, 15% | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CNC1=C2C(=NC=C1)NC=N2 | C22H15Cl2N5
